US07786129B2
3-Ethyl-3-{4-[4-(4-methoxyphenyl)-piperazin-1-yl]-butyl}-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process H by applying processing method 1 starting from 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(4-methoxyphenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC | C14H18ClNO
reactant | 1-(4-methoxyphenyl)-piperazine | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
product | 3-Ethyl-3-{4-[4-(4-methoxyphenyl)-piperazin-1-yl]-butyl}-1,3-dihydro-2H-indol-2-one | C(C)C1(C(NC2=CC=CC=C12)=O)CCCCN1CCN(CC1)C1=CC=C(C=C1)OC | C25H33N3O2
